US04515727
A mixture of 0.80 g of 7-chlorohepta-3,4-dien-1-ol t-butyldimethylsilyl ether, 1.0 g of sodium iodide and 5 ml of acetone were refluxed for 24 hours. The reaction mixture was cooled and diluted with 50 ml water. The product was extracted with 100 ml of ether and the ethereal solution washed with brine, dried over potassium carbonate and evaporated to give 7-iodohepta-4,5-dien-1-ol t-butyldimethylsilyl ether.

reactant | 7-chlorohepta-3,4-dien-1-ol t-butyldimethylsilyl ether | 0.80 g | [Si](C)(C)(C(C)(C)C)OCCC=C=CCCCl | C13H25ClOSi
reactant | sodium iodide | 1.0 g | [I-].[Na+]
reactant | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
product | 7-iodohepta-4,5-dien-1-ol t-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)OCCCC=C=CCI | C13H25IOSi
